US07582652B2
Propane-2-sulfonic acid (3-nitro-6-phenylethynylpyridin-2-yl)amide
Add propane-2-sulfonic acid (5-chloro-2-nitrophenyl)amide (10 g, 35.7 mmol), phenylacetylene (5.9 mL, 53.6 mmol) and triphenylphosphine (0.46 g, 1.78 mmol) to a solution of triethylamine (25 mL, 178.5 mmol) in dry THF (25 mL) and flush the system with nitrogen. Add dichlorobis(triphenylphosphine)palladium(1) (0.625 g, 0.89 mmol) and copper (I) iodide (0.17 g, 0.89 mmol) to this stirring mixture. Heat the reaction to reflux for 4 h. Cool to RT and concentrate to a slurry. Filter the crude material through a plug of silica gel using EtOAc as the eluting solvent. Concentrate the filtrate and crystallize the title compound from EtOAc-hexanes (7.9 g, 64%).

reactant | propane-2-sulfonic acid (5-chloro-2-nitrophenyl)amide | 35.7 mmol, 10 g | ClC=1C=CC(=C(C1)NS(=O)(=O)C(C)C)[N+](=O)[O-] | C9H11ClN2O4S
reactant | phenylacetylene | 53.6 mmol, 5.9 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | triphenylphosphine | 1.78 mmol, 0.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 178.5 mmol, 25 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 0.89 mmol, 0.17 g | [Cu]I
product | Propane-2-sulfonic acid (3-nitro-6-phenylethynylpyridin-2-yl)amide | [N+](=O)([O-])C=1C(=NC(=CC1)C#CC1=CC=CC=C1)NS(=O)(=O)C(C)C | C16H15N3O4S
